Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim / Retrovir / Percocet
 
Attending: ___.
 
Chief Complaint:
OSH transfer for pancreatitis 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M with h/o HIV, Htn, GERD, diverticultis presentd to ___ 
___ ___ with abdominal pain and found to have elevated lipase, 
that is felt to be medication related, no transferred to ___ 
for further care. Patient was in USOF, when last ___ he 
developed mild nausea around 2 pm, which was followed by cramps 
that resolved in about 5 minutes. He vomitted twice and then 
developed ___, upper quadrant, nr, dull abdominal pain. He 
presented to ___ where his HAART medications were stopped, 
and he is transferred here for further care.  
.  
At ___, His lipase was initially 20,000 and amylase was 
over 1000. CT abdomen was suggestive of pancreatitis. He was 
hydrated and treated with dilaudid for pain. HIV meds were held 
per ID consult. Amylase and lipase improved.  
.  
On the floor, patient reports ___ diffuse upper quadrant pain. 
he otherwise feels well.  
.  
ROS was otherwise essentially negative. The pt denied recent 
unintended weight loss, fevers, night sweats, chills, headaches, 
dizziness or vertigo, changes in hearing or vision, including 
amaurosis fugax, neck stiffness, lymphadenopathy, hematemesis, 
coffee-ground emesis, dysphagia, odynophagia, diarrhea, 
constipation, steatorrhea, melena, hematochezia, cough, 
hemoptysis, wheezing, shortness of breath, chest pain, 
palpitations, dyspnea on exertion, increasing lower extremity 
swelling, orthpnea, paroxysmal nocturnal dyspnea, leg pain while 
walking, joint pain.  
 
Past Medical History:
- Human immunodeficiency virus/acquired immunodeficiency  
syndrome dx in ___, CD4 ___K in ___, only OI  
cryptococcal menigitis in ___, on HAART. No other 
opportunistic infections such as PCP, ___, KP, CMV.  
- Anemia  
- Hypertension  
- Anal/penile condylomata s/p surgical removal x 2  
- GERD  
- H/o Diverticulitis  
- H/o pancreatitis: first attack ___ years ago, with subsequent 
change in antiretrovirals. He had a second episode in ___, and a 
third in ___ ___.  
- s/p CCY ___ years ago  

 
Social History:
___
Family History:
One brother with seizure d/o. Mother died of CVA at ___. Father 
with HTN, DL. No h/o CAD, DM.  

 
Physical Exam:
Vitals: T: 99.4 BP: 178/106 P: 74 R: 20 SaO2: 99 RA  
General: Awake, alert, NAD, pleasant, appropriate, cooperative.  

HEENT: NCAT, PERRL, EOMI, no scleral icterus, MMM, no lesions 
noted in OP  
Neck: supple, no significant JVD or carotid bruits appreciated  
Pulmonary: Lungs CTA bilaterally, no wheezes, ronchi or rales  
Cardiac: RR, nl S1 S2, no murmurs, rubs or gallops appreciated  
Abdomen: soft, mild diffuse upper quadrant tenderness, negative 
___, ND, normoactive bowel sounds, no masses or 
organomegaly noted  
Extremities: No edema, 2+ radial, DP pulses b/l  
Skin: no rashes or lesions noted.  
Neurologic: Alert, oriented x 3. Able to relate history without 
difficulty. Cranial nerves II-XII intact.  

 
Pertinent Results:
___ 08:45PM BLOOD WBC-4.3# RBC-4.66 Hgb-14.0 Hct-39.4* 
MCV-85 MCH-29.9 MCHC-35.4* RDW-13.6 Plt ___
___ 08:45PM BLOOD Neuts-62.6 ___ Monos-5.5 Eos-6.4* 
Baso-1.0
___ 08:45PM BLOOD Glucose-111* UreaN-10 Creat-1.0# Na-141 
K-4.2 Cl-106 HCO3-28 AnGap-11
___ 11:50PM BLOOD Albumin-4.2 Calcium-9.5 Phos-3.1 Mg-1.9
___ 08:45PM BLOOD ALT-81* AST-30 AlkPhos-117 TotBili-0.3
___ 11:50PM BLOOD ___ PTT-22.4 ___
___ 11:50PM BLOOD Triglyc-150*
___ 08:45PM BLOOD Lipase-97*
 
Brief Hospital Course:
___ yo M with HIV, HTN, history of diverticulitis presents with 
___ bout of acute pancreatitis.  
  
# Pancreatitis: Lipase and amylase improved with fluids, pain 
control, and holding HAART meds and statin. Likely medication 
related. Patient status post cholecystectomy but could also be 
stone or etoh related. He is to follow-up with his primary care 
physician prior to restarting any of his HAART medications, 
dapsone, hydrocholorthiazide or tricor.  At discharge, he was 
tolerating foods without nausea and vomiting with good pain 
control.

# HIV: His HAART medications were held in setting of 
pancreatitis.
  
# Hypertension: His HCTZ was held in setting of pancreatitis, 
and his blood pressures were elevated.  He was continued on 
cardiazem and lisinopril but should discuss the additional of an 
additional agent or restarting HCTZ with his PCP.

# Dyslpidemia: His statin was held in setting of likely 
medication related pancreatitis.  
  
# Psych: His SSRI, benzo, and trazodone were all continued.

 
Medications on Admission:
AT HOME:
Norvir 100 mg daily  
Reyataz 300 mg daily  
Tricor 145 mg daily  
Cardizem 180 mg daily  
Hctz 50 mg daily  
Dapsone 100 mg daily  
Prozac 40 mg daily  
Trazodone 100 mg daily  
Compazine 10 mg prn  
Amoxicillin ___ mg prior to procedures  
.  
ON TRANSFER:
Cardizem 180 mg daily  
Nexium 40 mg IV BID  
Nicoderm patch  
Trazodone 100 mg qhs  
Prozac 40 mg daily  
NS 100cc/hr  

 
Discharge Medications:
1. Diltiazem HCl 180 mg Capsule, Sustained Release Sig: One (1) 
Capsule, Sustained Release PO DAILY (Daily).  
2. Fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
3. Trazodone 50 mg Tablet Sig: Two (2) Tablet PO at bedtime as 
needed for isomnia.  
4. Lisinopril 20 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
5. Morphine 15 mg Tablet Sig: One (1) Tablet PO every ___ hours 
as needed for pain for 10 doses: Do not drive or drink alcohol 
while on this medication.
Disp:*10 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: 
Pancreatitis 
HIV

 
Discharge Condition:
Stable, abdominal pain improved

 
Discharge Instructions:
You were admitted to the hospital for abdominal pain and were 
found to have pancreatitis at an outside hospital.  You were 
transferred here for continued care.  Your abdominal pain 
improved, and you were able to eat again.  Please follow-up with 
your PCP as below to discuss possibly changing your medications 
as they may have caused your pancreatitis.

The following changes were made to your medications:
1. Please stop taking your HAART HIV medications 
2. Please stop your dapsone
3. Please stop your tricor
4. Please stop your HCTZ
5. Started morphine 15mg by mouth every ___ hours as needed for 
pain.  Do not drink alcohol or drive while on this medication.

You should discuss all of these medication changes with your PCP 
on ___ and ___ work together to figure out which to restart.

If you experience worsening fevers and chills, abdominal pain, 
nausea and vomiting, chest pain or difficulty breathing, please 
call your doctor or come to the ED.
 
Followup Instructions:
___